US06331640B1
A solution of N-[(1,1-dimethylethoxy)carbonyl]-3-[(9H-fluoren-9-ylmethoxy)carbonyl]amino-L-alanine (5.00 g, 11.7 mmol) in N,N-dimethylformamide (10 mL) was treated with potassium hydrogen carbonate (1.4 g, 14.1 mmol) and iodomethane (0.8 ml, 12.9 mmol). The reaction mixture was stirred at room temperature for 2 h. Then water was added and the mixture was extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried (Na2SO4), concentrated and chromatographed (10-40% ethyl acetate/hexanes) to give N-[(1,1-dimethylethoxy)carbonyl]-3-[(9H-fluoren-9-ylmethoxy)carbonyl]amino-L-alanine, methyl ester (4.20 g, 81%) as a white solid.

reactant | N-[(1,1-dimethylethoxy)carbonyl]-3-[(9H-fluoren-9-ylmethoxy)carbonyl]amino-L-alanine | 11.7 mmol, 5.00 g | CC(C)(OC(=O)N[C@@H](CNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O)C | C23H26N2O6
reactant | potassium hydrogen carbonate | 14.1 mmol, 1.4 g | C(O)([O-])=O.[K+]
reactant | iodomethane | 12.9 mmol, 0.8 ml | IC | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-[(1,1-dimethylethoxy)carbonyl]-3-[(9H-fluoren-9-ylmethoxy)carbonyl]amino-L-alanine, methyl ester | 4.20 g, 81% | CC(C)(OC(=O)N[C@@H](CNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)OC)C | C24H28N2O6
